US05856529
Step 12: 2,3,4,5-Tetrahydrobenzoxepin-6-carboxaldehyde
DMSO (1.85 ml, 26 mmol) was added slowly to a -78° C. solution of oxalyl chloride in methylene chloride (10 ml of 2M, 20 mmol). To this solution was added slowly a solution of 2,3,4,5-tetrahydrobenzoxepin-4-methanol (2.3 g, 13 mmol) in methylene chloride, and the mixture was stirred 30 min at -78° C. Triethyl amine (7.53 ml, 52 mmol) was added slowly to the reaction mixture, which was then allowed to warm to room temperature. The mixture was diluted with methylene chloride (50 ml) and washed with water and then brine. The organic layer was concentrated in vacuo to an oil (2.28 g, 100%).

reactant | DMSO | 26 mmol, 1.85 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3,4,5-tetrahydrobenzoxepin-4-methanol | 13 mmol, 2.3 g | O1CCC(CC2=C1C=CC=C2)CO | C11H14O2
reactant | Triethyl amine | 52 mmol, 7.53 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mmol, 2M, 10 ml | C(Cl)Cl | CH2Cl2
product | 2,3,4,5-Tetrahydrobenzoxepin-6-carboxaldehyde | O1CCCCC=2C1=CC=CC2C=O | C11H12O2
